US04096261
In a 3 liter, three necked round bottom flask, provided with a mechanical stirrer, reflux condenser and thermometer (to 200° C.) was placed 300 g. (1.25 m.) 1-bromo-4-chloronitrobenzene, 140 g. (1.02 m.) anthranilic acid, and 130 ml. n-amyl alcohol. The mixture was heated in an oil bath. After most of the chemicals were dissolved (80°-90° C.) the stirrer was started. Then, 1.3 gm. copper powder and 140 gm. (1.02 m.) potassium carbonate were added all at once. A yellow voluminous froth formed but no heat of reaction. As the reaction temperature rose from 180° to 120°, a red reaction mixture became more solid and hindered further stirring. The reflux condenser was replaced to distill off the formed water and amyl alcohol. Meanwhile, the temperature of the oil bath was steadily increased and finally kept at 200°-210° for 3 hours. The oil bath was replaced by a steam bath and the excess bromochloronitrobenzene was removed by steam distillation. After removal of bromochloronitrobenzene was completed, the solution was filtered and water added making the total volume of dark red solution about 2.5 liters. The solution was cooled to room temperature overnight, and filtered. Dilute HCl (1:1) was carefully added to the filtrate until it was just acid to Congo red litmus paper. The ochre-colored precipitate was removed by filtration and washed with water (750 ml.). The product was dried in vacuo at 70°. The original dark-red filter cake was digested with hot water several times and then treated as described above to extract all the desired product. Obtained: 247 grams (83% yield) of crude N-(4-chloro-2-nitrophenyl)anthranilic acid; orange granular powder; m.p. 235°-247° C.

reactant | 1-bromo-4-chloronitrobenzene | BrC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | n-amyl alcohol | CCCCCO | C5H12O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
product | N-(4-chloro-2-nitrophenyl)anthranilic acid | 247 grams, 83% yield | ClC1=CC(=C(C=C1)NC=1C(C(=O)O)=CC=CC1)[N+](=O)[O-] | C13H9ClN2O4
